* Z:\mnt\spice-netlists\LTC3649_HoldUpBoost.asc
XU1 0 MP_01 Hold-Up MP_02 Hold-Up 0 N008 N004 N007 N009 N002 N006 OUT N010 N001 OUT N001 N003 N005 LTC3649
R1 N010 0 100K
C1 N010 0 1n
R2 N006 0 200K
V1 IN 0 PWL(0 0 20u 12 1.2m 12 +0.01m 0)
C2 0 N001 2.2µ
R3 N009 0 10K
C3 N009 0 10n
L1 N005 OUT 6.8µ
C4 N003 N005 .1µ
R5 Hold-Up N002 511K
R6 N002 0 169K
D1 IN Hold-Up RBR5L30B
C6 Hold-Up 0 4.7µ
R11 N001 N004 100K
R10 OUT N007 1Meg
R12 N007 0 137K
Rload Hold-Up 0 24
C7 Hold-Up 0 47µ
C8 OUT 0 10µ
Cstorage OUT 0 560µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m
* Critical System in Need of \nExtended Hold-Up Time
* Notes:\nFloat Pin Mode/Sync to initiate boost mode feature.\nIf the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\nIt remains the customer's responsibility to verify proper and reliable operation in the actual application.\nComponent substitution and printed circuit board layout may significantly affect circuit performance or reliability.\nContact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\nCopyright © 2016 Linear Technology Inc. All rights reserved.
* LTC3649 - 60V, 4A Synchronous Step-Down Regulator with Rail-to-Rail Programmable Output\nHold-Up Circuit Using a Buck Regulator with Vin Boost Capabilities\nInput: 5.5V to 60V     Output: 5V @ 4A Buck Mode, 8V Hold-Up in Boost Mode
.lib LTC3649.sub
.backanno
.end
