* Z:\mnt\spice-netlists\LTC4000_LTC3890-3.asc
C2 N012 N015 0.1µ
C4 OUT 0 22µ
C6 IN 0 1µ
C7 N031 0 1n
C8 N037 0 1n
M§Q1 OUT N007 N001 N001 Si4427DY
M§Q2 BAT N021 N016 N016 Si4427DY
RO1 N001 N024 499K
RO2 N024 N026 35.7K
RB2 N026 N028 36.5K
RB1 BAT N028 499K
VB N036 0 12.5
C9 N025 0 1µ
RCX 0 N041 22.1K
RCL 0 N040 19.1K
RS2 N001 N016 12m
XU2 N025 0 N031 NC_01 NC_02 N037 N041 N040 N025 0 N027 N030 N025 N035 N026 N028 BAT N021 N016 N001 N024 N007 OUT N011 N015 N002 IN LTC4000 period=19
V1 IN 0 PWL(0 36 1m 36 1.5m 0)
RS1 IN N002 5m
R17 N012 N011 14.7K
R18 N027 N025 100K
R19 N030 N025 100K
M§Q3 N002 N010 N019 N019 RJK0651DPB
D5 N004 N014 1N4148
C1 N004 0 4.7µ
C3 N014 N019 .1µ
L2 N019 N020 15µ
R2 N020 OUT .003
RF1 OUT N008 499K
RF2 N008 0 18.7K
C14 N039 0 .001µ
D6 N004 N013 1N4148
C15 N013 N018 .1µ
L3 N018 N017 15µ
R22 N017 OUT_LOAD .008
C16 OUT_LOAD 0 220µ
ROT OUT_LOAD N029 499K
ROB N029 0 162K
C18 N038 0 .001µ
Rload2 OUT_LOAD 0 6
XU1 N033 N029 N017 OUT_LOAD N006 N042 0 RUNS RUNS OUT N020 N008 N011 N039 N010 N019 N014 N023 N004 0 0 N003 N022 N013 N018 N009 N005 N038 LTC3890-3
R25 N004 N005 100K
R26 N006 0 37.4K
M§Q4 N019 N023 0 0 RJK0651DPB
M§Q7 N001 N009 N018 N018 RJK0651DPB
M§Q8 N018 N022 0 0 RJK0651DPB
R1 N001 N007 100K
C5 0 N034 2.2n
R3 N034 N011 15K
C10 0 N011 100p
C11 N032 0 4.7n
R8 N033 N032 15K
C13 N033 0 100p
R9 BAT N036 0.1
V2 N003 0 12
V3 RUNS 0 3
C12 N001 0 150µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 2m 0 0.9m startup uic
* LTC3890-3 - 60V Low IQ, Dual, 2-Phase Synchronous Step-Down DC/DC Controller\nLTC4000 - High Voltage High Current Controller for Battery Charging and Power Management\n60V Input DC/DC Power Supply with Battery Backup\nInput: 18V to 60V     Output: 3.3V @ 2A, Fsw = 200kHz, Vfloat = 14.4V
* BATTERY
* Notes:\n  When the input is present one half of the LTC3890-3 functions as battery charger and second half as DC/DC converter.\n  When input is disconnected, then battery supplies DC/DC converter and load.\n  LTC4000 controls LTC3890-3 through Ith pin during the charging process. \n  SS capacitors have been reduced to speed up simulation time. Typical values should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LTC3890-3.sub
.lib LTC4000.sub
.backanno
.end
