* Z:\mnt\spice-netlists\LTC3774_LTC4449.asc
V1 IN 0 12
C1 0 N001 4.7µ
XU2 MP_01 MP_02 N007 N005 N011 0 N010 N001 N001 N004 LTC4449
M1 IN N007 N005 N005 BSC050NE2LS
M2 N005 N011 0 0 BSC010NE2LSI
L1 N005 OUT2 .33µ
R3 N005 N013 931
C2 N013 OUT2 .22µ
XU3 MP_03 MP_04 N006 N002 N008 0 N009 N001 N001 N003 LTC4449
M3 IN N006 N002 N002 BSC050NE2LS
M4 N002 N008 0 0 BSC010NE2LSI
L2 N002 OUT1 .33µ
R4 N002 N012 931
C3 N012 OUT1 .22µ
Rload1 OUT1 0 50m
D1 N001 N003 1N5818
C7 N003 N002 .22µ
D2 N001 N004 1N5818
C8 N004 N005 .22µ
R1 N005 N015 4.64K
C5 OUT2 N015 .22µ
R2 N024 0 37.4K
R5 N002 N014 4.64K
C6 OUT1 N014 .22µ
R7 N016 0 10k
XU1 NC_05 N020 0 N017 N023 IN NC_06 N010 NC_07 0 N015 OUT2 N013 NC_08 NC_09 N012 OUT1 N014 MP_10 NC_11 N009 NC_12 IN N022 N016 0 N019 NC_13 NC_14 NC_15 N024 0 NC_16 N001 IN NC_17 LTC3774
Rload2 OUT2 0 40m
CoBlk1 OUT1 0 330µ
CoCer1 OUT1 0 100µ
CoBlk2 OUT2 0 330µ
CoCer2 OUT2 0 100µ
R6 N016 OUT1 15K
C4 N019 0 330p
C9 N018 0 2.2n
R8 N019 N018 8.06K
C10 N022 0 1n
C11 N020 0 330p
C12 N021 0 2.2n
R9 N020 N021 8.06K
C13 N023 0 1n
C14 N016 OUT1 22p
R10 N017 0 10k
R11 N017 OUT2 10K
C15 N017 OUT2 22p
C16 IN 0 22µ
C17 IN 0 180µ
C19 N001 0 4.7µ
C18 N001 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3774 - Dual, Multiphase Current Mode Synchronous Controller for Sub-Milliohm DCR Sensing\nLTC4449 - High Speed Synchronous N-Channel MOSFET Driver\nHigh Efficiency Dual Output Buck Converter with Discrete MOSFET Drivers\nInput: 7V to 14V     Outputs: 1.5V @ 30A and 1.2V @ 30A, Fsw = 400kHz
* 1.5V @ 30A
* 1.2V @ 30A
* Note:\n  Small value are used for TRACK/SS capacitors to reduce simulation time. The typical value for actual applications will vary from 10nF to 100nF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTC3774.sub
.lib LTC4449.sub
.backanno
.end
