* Z:\mnt\spice-netlists\LTC3780_LTC4444.asc
XU1 N007 N021 N024 N025 N020 N018 0 N006 0 N022 NC_01 N017 N001 N010 0 N014 0 N016 N001 N005 N002 N012 N011 N009 LTC3780
M§Q1 IN N008 N003 N003 Si4486EY
D1 N001 N009 BAT54
C1 N001 0 4.7µ
M§Q2 OUT N011 N012 N012 Si4408DY
M§Q3 N012 N016 N015 N015 Si4408DY
V1 IN 0 24
C2 OUT 0 22µ
R1 N018 0 8.06K
R2 OUT N018 113K
R3 N015 0 15m
C3 N001 0 .1µ
C4 N009 N012 .1µ
M§Q4 N003 N013 N015 N015 Si4486EY
D2 N015 N003 MBRS1100
D3 N012 OUT MBRS340
L1 N003 N012 6.8µ
C7 N023 N022 .01µ
R5 N023 0 10K
V2 N002 0 8
XU2 N010 N014 N002 N013 MP_02 N004 N008 N003 0 LTC4444
D4 N002 N004 MMSD4148
C8 N004 N003 0.22µ
C9 N002 0 1µ
C10 N017 0 100p
R6 N024 N015 100
R7 N025 0 100
C11 N025 N024 68p
R8 N002 N006 51K
C12 N021 0 100p
R9 N001 N007 10K
C13 OUT 0 330µ
C14 IN 0 2.2µ
C15 IN 0 100µ
R10 OUT 0 4
C16 0 N020 100p
C17 0 N019 .0047µ
R11 N020 N019 220K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
* LTC3780/LTC4444 - High Efficiency Synchronous Buck-Boost DC/DC Converter\nInput: 8V-48V    Output: 12V @ 3A
.lib LTC3780.sub
.lib LTC4444.sub
.backanno
.end
