* Z:\mnt\spice-netlists\LTC3891_PosToNeg.asc
M§Q1 IN N003 N005 N005 Si7850DP
L1 N005 N006 10µ
R1 0 N012 511K
R2 N012 OUT 35.7K
C2 N004 N005 .1µ
C3 N001 OUT 4.7µ
C5 N009 OUT .001µ
V1 IN 0 PWL(0 0 1m 24)
M§Q2 N005 N008 OUT OUT Si7850DP
Rload 0 OUT 1.2
XU1 0 N007 MP_01 MP_02 NC_03 OUT N002 MP_04 MP_05 MP_06 MP_07 MP_08 MP_09 MP_10 MP_11 MP_12 MP_13 MP_14 N001 0 OUT IN N008 N004 N005 N003 NC_15 NC_16 N009 N011 N012 N006 LTC3891
R4 N006 0 0.002
R3 N007 OUT 30.1K
C6 0 OUT 150µ
C8 IN 0 4.7µ x2
R6 N011 N010 5.11K
C4 N010 OUT 15n
C7 N011 OUT 47p
C11 N006 0 1n
D1 N001 N004 MBRS1100
C1 0 OUT 10µ
C9 IN OUT 2.2µ
C12 IN OUT 100µ
R5 IN N002 1Meg
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
* Note:\n  A smaller value Track/SS capacitor is used to reduce simulation time. Typical value should be  0.1uF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LTC3891 - Low IQ, 60V Synchronous Step-Down Controller\nHigh Efficiency Positive to Negative  Converter\nInput: 12V to 36V           Output: -12V @ 10A
* L1: 7443631000 (Wurth)\nC8: 63HVH56M (SUN Electonics)\nC6: 16TSVPC150 (Sanyo)\nC9,C10: C4532X7R2A225K (TDK)\nC5: 0.1uF
* -12 Negative Bus
.lib LTC3891.sub
.backanno
.end
