* Z:\mnt\spice-netlists\LTC3810_SwitchingSurgeStopper.asc
R1 IN N003 2.7Meg
M§Q1 IN N002 N004 N004 BSH114
R2 IN N002 287K
D1 N004 N005 MMSD4148
C1 N005 N008 .1µ
M§Q2 IN N007 N008 N008 BSC060N10NS3
M§Q3 N008 N014 N012 N012 BSC060N10NS3
C2 N004 0 1µ x2
L1 N008 OUT 33µ
D2 N012 N008 MBRS1100
R3 OUT N015 68.1K
R4 N015 0 976
C3 OUT 0 4.7µ
C4 N013 N015 10p
C5 N009 0 1000p
C6 N010 0 .01µ
XU1 N003 MP_01 MP_02 N004 N004 N006 N004 N013 N015 N011 N009 0 N004 N001 N002 0 N004 N004 N014 0 0 MP_03 MP_04 MP_05 N012 N008 N007 N005 LTC3810
R6 N013 N016 46.4K
C7 N016 N015 1200p
R7 N011 N010 10K
V1 IN 0 PWL(0 0 +20u 60 +.8m 60 +1u 75 +.2m 75 +1u 60 +.1m 60 +.4m 40)
Rload OUT 0 11.4
C8 IN 0 33µ x2
C9 OUT 0 33µ
C10 N003 0 100p
R5 IN N001 464K
R8 N001 0 13.3K
R10 N012 0 30m
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
* LTC3810 - 100V Current Mode Synchronous Switching Regulator Controller\nHigh Efficiency Switching Surge Stopper\nInput: 36V to 75V     Output: 57V @ 5A
.lib LTC3810.sub
.backanno
.end
